US04808595
2-Sulfamoylfuro[3,2-c]pyridin-4(5H)-one
Alternate Procedure: A suspension of 2-sulfamoyl-4-methoxyfuro[3,2-c]pyridine (0.75 g, 3.3 mmol) in 10% aqueous hydrochloric acid (40 ml) was heated at 100° C. for 41/2 hours. Upon cooling, the product precipitated and was collected by filtration, washed with ethanol and diethyl ether to give 0.53 g (76% yield), m.p. 286°-289° C.

reactant | 2-sulfamoyl-4-methoxyfuro[3,2-c]pyridine | 3.3 mmol, 0.75 g | S(N)(=O)(=O)C1=CC=2C(=NC=CC2O1)OC | C8H8N2O4S
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 2-Sulfamoylfuro[3,2-c]pyridin-4(5H)-one | S(N)(=O)(=O)C1=CC=2C(NC=CC2O1)=O | C7H6N2O4S
